### PR TITLE
feat: add a couple of `FreeGroups` proofs

### PR DESCRIPTION
**Pull request by adomani**
I also changed the formatting to what is standard in Mathlib.

### CODE REVIEW

File: Oscar/Tactics.lean [hunk 1]
```diff
@@ -165,17 +165,26 @@ section KBMAG
...
+  rw [doubleton_eq, ← FreeGroup.mul_mk, ← inv_inv (FreeGroup.mk [(x, !_)]), mul_inv_eq_one,
+    FreeGroup.inv_mk, FreeGroup.invRev]
+  simp
+
 theorem aux {α : Type u} (x : α) :
-  FreeGroup.mk [(x, true), (x, false)] = 1 := by
-    sorry
+    FreeGroup.mk [(x, true), (x, false)] = 1 := by
+  rw [← Bool.not_true]
+  exact mk_not_right
```
Comment (adomani) [inline Oscar/Tactics.lean]:
```suggestion
  rw [← Bool.not_true, mk_not_right]
```

**Comment by todbeibrot** [comment]
Nice to have. Thank you for your contribution!
